*** SPICE deck for cell 10_Or{lay} from library Project_3
*** Created on Fri May 10, 2019 14:03:29
*** Last revised on Sat May 11, 2019 11:46:00
*** Written on Sat May 11, 2019 11:46:05 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** TOP LEVEL CELL: 10_Or{lay}
Mnmos@0 O net@14 gnd gnd N L=0.7U W=1.75U AS=13.809P AD=4.9P PS=18.327U PD=9.1U
Mnmos@1 gnd I0 net@14 gnd N L=0.7U W=1.75U AS=3.508P AD=13.809P PS=5.918U PD=18.327U
Mnmos@2 net@14 I1 gnd gnd N L=0.7U W=1.75U AS=13.809P AD=3.508P PS=18.327U PD=5.918U
Mnmos@3 gnd I2 net@14 gnd N L=0.7U W=1.75U AS=3.508P AD=13.809P PS=5.918U PD=18.327U
Mnmos@4 net@14 I3 gnd gnd N L=0.7U W=1.75U AS=13.809P AD=3.508P PS=18.327U PD=5.918U
Mnmos@5 gnd I4 net@14 gnd N L=0.7U W=1.75U AS=3.508P AD=13.809P PS=5.918U PD=18.327U
Mnmos@6 net@14 I5 gnd gnd N L=0.7U W=1.75U AS=13.809P AD=3.508P PS=18.327U PD=5.918U
Mnmos@7 gnd I6 net@14 gnd N L=0.7U W=1.75U AS=3.508P AD=13.809P PS=5.918U PD=18.327U
Mnmos@8 net@14 I7 gnd gnd N L=0.7U W=1.75U AS=13.809P AD=3.508P PS=18.327U PD=5.918U
Mnmos@9 gnd I8 net@14 gnd N L=0.7U W=1.75U AS=3.508P AD=13.809P PS=5.918U PD=18.327U
Mnmos@10 net@14 I9 gnd gnd N L=0.7U W=1.75U AS=13.809P AD=3.508P PS=18.327U PD=5.918U
Mpmos@0 O net@14 vdd vdd P L=0.7U W=1.75U AS=71.05P AD=4.9P PS=74.2U PD=9.1U
Mpmos@1 vdd I0 net@9 vdd P L=0.7U W=1.75U AS=3.369P AD=71.05P PS=5.6U PD=74.2U
Mpmos@2 net@9 I1 net@98 vdd P L=0.7U W=1.75U AS=3.369P AD=3.369P PS=5.6U PD=5.6U
Mpmos@3 net@98 I2 net@18 vdd P L=0.7U W=1.75U AS=3.369P AD=3.369P PS=5.6U PD=5.6U
Mpmos@4 net@18 I3 net@65 vdd P L=0.7U W=1.75U AS=3.369P AD=3.369P PS=5.6U PD=5.6U
Mpmos@5 net@65 I4 net@33 vdd P L=0.7U W=1.75U AS=3.369P AD=3.369P PS=5.6U PD=5.6U
Mpmos@6 net@33 I5 net@92 vdd P L=0.7U W=1.75U AS=3.369P AD=3.369P PS=5.6U PD=5.6U
Mpmos@7 net@92 I6 net@44 vdd P L=0.7U W=1.75U AS=3.369P AD=3.369P PS=5.6U PD=5.6U
Mpmos@8 net@44 I7 net@21 vdd P L=0.7U W=1.75U AS=3.369P AD=3.369P PS=5.6U PD=5.6U
Mpmos@9 net@21 I8 net@59 vdd P L=0.7U W=1.75U AS=3.369P AD=3.369P PS=5.6U PD=5.6U
Mpmos@10 net@59 I9 net@14 vdd P L=0.7U W=1.75U AS=3.508P AD=3.369P PS=5.918U PD=5.6U

* Spice Code nodes in cell cell '10_Or{lay}'
VDD VDD 0 DC 3.3 
VGND GND 0 DC 0
VIN2 I0 0 PULSE(3.3 0 0 1n 1n 10n 20n)
VIN3 I1 0 PULSE(3.3 0 0 1n 1n 40n 80n)
VIN4 I2 0 PULSE(3.3 0 0 1n 1n 40n 80n)
VIN5 I3 0 PULSE(3.3 0 0 1n 1n 40n 80n)
VIN6 I4 0 PULSE(3.3 0 0 1n 1n 40n 80n)
VIN7 I5 0 PULSE(3.3 0 0 1n 1n 40n 80n)
VIN8 I6 0 PULSE(3.3 0 0 1n 1n 40n 80n)
VIN9 I7 0 PULSE(3.3 0 0 1n 1n 40n 80n)
VIN10 I8 0 PULSE(3.3 0 0 1n 1n 40n 80n)
VIN11 I9 0 PULSE(3.3 0 0 1n 1n 40n 80n)
.TRAN 0 20n
.include C:\electric\MOS_model.txt
.END
